US06482841B1
A) 2,6-Dimethyl-4-(2-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
A solution of 90 ml (118.8 g; 0.68 mol) of 2-trifluoromethyibenzaldehyde, 75 ml (79.23 g; 0.68 mol) of methyl acetoacetate and 126.38 g (0.68 mol) of (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate in 700 ml of 2-propanol, was refluxed in the absence of light along 10 hours.

reactant | 2-trifluoromethyibenzaldehyde | 0.68 mol, 90 ml, 118.8 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | methyl acetoacetate | 0.68 mol, 75 ml, 79.23 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate | 0.68 mol, 126.38 g | O1C(CCC1)COC(\C=C(\C)/N)=O | C9H15NO3
solvent | 2-propanol | 700 ml | CC(C)O | C3H8O
product | 2,6-Dimethyl-4-(2-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C22H24F3NO5
